US09126950B2
Synthesis of 2-(benzyloxy)-1-(2-methoxyethoxy)-4-nitrobenzene.
Into a 25 mL 3-neck RBF equipped with reflux condenser and thermo pocket were charged 2-(benzyloxy)-1-fluoro-4-nitrobenzene (3.3 g), 2-methoxy ethanol (16.0 mL) and Cs2CO3 (8.67 g). The reaction mixture was heated at 80° C. for 2 hr. The reaction was monitored on TLC using hexane:ethyl acetate (5:5) as mobile phase. The reaction was complete after 2 hr. After completion, the reaction mixture was cooled to room temperature and poured into cold water. Solid precipitate was filtered and washed with water. Solid was dried under reduced pressure. The obtained 3.90 g of solid 2-(benzyloxy)-1-(2-methoxyethoxy)-4-nitrobenzene was taken onto the next step without further purification. 1H NMR: DMSO-d6 (400 MHz): 3.34 (s, 3H), 3.722-3.700 (t, 2H, J=4.4), 4.269-4.291 (t, 2H, J=4.4), 5.256 (s, 2H), 7.216-7.239 (d, 1H, J=9.2), 7.328-7.364 (m, 1H), 7.393-7.430 (m, 2H), 7.471 (s, 1H), 7.489 (s, 1H), 7.849-7.855 (d, 1H, J=2.4), 7.889-7.971 (dd, 1H, J=2.4, 6.4).

reactant | 2-(benzyloxy)-1-fluoro-4-nitrobenzene | 3.3 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])F | C13H10FNO3
reactant | 2-methoxy ethanol | 16.0 mL | COCCO | C3H8O2
reactant | Cs2CO3 | 8.67 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 2-(benzyloxy)-1-(2-methoxyethoxy)-4-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])OCCOC | C16H17NO5
